US07718681B2
Preparation of 5-[3-(3-bromo-4-ethoxy-phenyl)-1-phenyl-1H-pyrazol-4-ylmethylene]-3-ethyl-thiazolidine-2,4-dione (Compound No. 79)
5-[3-(3-Bromo-4-ethoxy-phenyl)-1-phenyl-1H-pyrazol-4-yl-methylene]-thiazolidine-2,4-dione (Compound No. 77, 0.10 mg, 0.21 mmol) was dissolved in 1.00 mL of anhydrous dimethylformamide. Sodium hydride (12.74 mg, 0.32 mmol) was added under nitrogen atmosphere and bromoethane (23.72 μL, 0.32 mmol) was added 5 minutes later. The mixture was stirred at room temperature for 2 hours. When the reaction was completed, 10 mL of water was added and the solution was extracted with dichloromethane (10 mL×2 times). The organic layer was washed with brine and dried with anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The product was purified with silica gel chromatography (n-hexane/ethyl acetate=4:1) to obtain 52 mg (49.2%) of the target product in yellow solid form.

reactant | 5-[3-(3-Bromo-4-ethoxy-phenyl)-1-phenyl-1H-pyrazol-4-yl-methylene]-thiazolidine-2,4-dione | 0.21 mmol, 0.10 mg | BrC=1C=C(C=CC1OCC)C1=NN(C=C1C=C1C(NC(S1)=O)=O)C1=CC=CC=C1 | C21H16BrN3O3S
reactant | Sodium hydride | 0.32 mmol, 12.74 mg | [H-].[Na+]
reactant | bromoethane | 0.32 mmol, 23.72 μL | BrCC | C2H5Br
reactant | water | 10 mL | O | H2O
solvent | dimethylformamide | 1.00 mL | CN(C=O)C | C3H7NO
product | 5-[3-(3-bromo-4-ethoxy-phenyl)-1-phenyl-1H-pyrazol-4-ylmethylene]-3-ethyl-thiazolidine-2,4-dione | 52 mg, 49.2% | BrC=1C=C(C=CC1OCC)C1=NN(C=C1C=C1C(N(C(S1)=O)CC)=O)C1=CC=CC=C1 | C23H20BrN3O3S
